US07157464B2
Synthesis of 4-chloro-5-propyl-3-trifluoromethyl-1H-pyrazole
Following protocol L, 5-propyl-3-trifluoromethyl-1H-pyrazole was treated with NCS in CH3CN to yield the title compound.

reactant | 5-propyl-3-trifluoromethyl-1H-pyrazole | C(CC)C1=CC(=NN1)C(F)(F)F | C7H9F3N2
reactant | NCS | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | CH3CN | CC#N | C2H3N
product | 4-chloro-5-propyl-3-trifluoromethyl-1H-pyrazole | ClC=1C(=NNC1CCC)C(F)(F)F | C7H8ClF3N2
